US05151497
Nα -(2,2-Dimethyl-4-oxocyclopentanecarbonyl)-L-histidyl-L-prolinamide (Compound 21)
In DMF (2 ml) was dissolved 2,2 dimethyl-4-oxocyclopentanecarboxylic acid [W. H. Perkin, jun., J. F. Thorpe, J. Chem. Soc., 79, 729 (1901)] (100 mg), and HOBT (108 mg) was added to the solution, followed by addition of DCC (145 mg) under cooling at 0° C. The mixture was stirred at 5° C. over night. After addition of L-histidyl-L-prolinamide dihydrobromide (265 mg) followed by addition of triethylamine (0.134 ml), the mixture was stirred at 5° C. for 4 days. After the resultant precipitate was filtered off, the filtrate was concentrated under reduced pressure to dryness and the residue was subjected to silica gel column chromatography. The fractions eluted by chloroform:methanol:ammonia water (90:10:2) were combined and concentrated to dryness to give the title compound (140 mg) was obtained as powders.

reactant | 2,2 dimethyl-4-oxocyclopentanecarboxylic acid | 100 mg | CC1(C(CC(C1)=O)C(=O)O)C | C8H12O3
reactant | HOBT | 108 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 145 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-histidyl-L-prolinamide dihydrobromide | 265 mg | Br.Br.N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.134 ml | C(C)N(CC)CC | C6H15N
product | Nα -(2,2-Dimethyl-4-oxocyclopentanecarbonyl)-L-histidyl-L-prolinamide | 140 mg | CC1(C(CC(C1)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1)C | C19H27N5O4
